US07022689B2
To a stirred suspension of 0.969 g of ethyl (1H-tetrazol-5-yl)acetate in 9mL of tetrahydrofuran were added successively 0.932 mL of triethylamine and 1.68 g of trityl chloride at room temperature, and the mixture was stirred at the same temperature for 2 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, and 1 mol/L hydrochloric acid, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 1.23 g of ethyl (1-trityl-1H-tetrazol-5-yl)acetate.

reactant | ethyl (1H-tetrazol-5-yl)acetate | 0.969 g | N1N=NN=C1CC(=O)OCC | C5H8N4O2
reactant | triethylamine | 0.932 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 1.68 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
solvent | tetrahydrofuran | 9mL | O1CCCC1 | C4H8O
product | ethyl (1-trityl-1H-tetrazol-5-yl)acetate | 1.23 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1CC(=O)OCC | C24H22N4O2
